US08445501B2
4-(5-Acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)piperidin-4-yl]-amide
Starting from 4-(5-acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A81) and 1-(4-amino-piperidin-1-yl)-2-methoxy-ethanone (A192) the title compound is obtained as colorless solid.

reactant | 4-(5-acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O)OCC2CC2 | C19H17N3O4
reactant | 1-(4-amino-piperidin-1-yl)-2-methoxy-ethanone | NC1CCN(CC1)C(COC)=O | C8H16N2O2
product | 4-(5-Acetyl-2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)piperidin-4-yl]-amide | COCC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)C(C)=O)OCC2CC2 | C27H31N5O5
